US07576215B2
[4-{3-[(1,1′-BIPHENYL-4-YLMETHYL)AMINO]PHENYL}-8-(Trifluoromethyl)Quinolin-3-Yl](Phenyl)Methanone
The title compound was prepared from [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone and biphenyl-4-carbaldehyde according to the procedure of Example 66. MS (ES) m/z 559.2.

reactant | [4-(3-amino-phenyl)-8-trifluoromethyl-quinolin-3-yl]-phenyl-methanone | NC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H15F3N2O
reactant | biphenyl-4-carbaldehyde | C1(=CC=C(C=C1)C=O)C1=CC=CC=C1 | C13H10O
product | [4-{3-[(1,1′-BIPHENYL-4-YLMETHYL)AMINO]PHENYL}-8-(Trifluoromethyl)Quinolin-3-Yl](Phenyl)Methanone | C1(=CC=C(C=C1)CNC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C36H25F3N2O
